US06124323
4-(4-Chlorobenzyl)-1-[2-(2-chloro-4-(2-hydroxyethyl)phenoxy)ethyl]piperidine
The title compound was prepared from reduction of 1-[2-(2-chloro-4-ethoxycarbonylmethylphenoxy)ethyl]-4-(4-chlorobenzyl)piperidine (450.3 mg, 1.0 mmol) by LiAlH4 (38 mg, 1.0 mmol) as oily product (298 mg). 1H NMR (CD3OD) 1.248 (m, 2 H), 1.374 (s, 1 H), 1.572 (m, 4 H), 2.530 (m, 2 H), 2.677 (m, 1 H), 2.782 (m, 2 H), 2.991-3.139 (m, 4 H), 3.828 (m, 2 H), 4.131 (m, 2 H), 6.868 (m, 1 H), 7.103 (m, 2 H), 7.233 (m, 4 H). HRMS Calcd for C22H2735Cl2NO2 : 407.1435; Found: 407.1427.

reactant | 1-[2-(2-chloro-4-ethoxycarbonylmethylphenoxy)ethyl]-4-(4-chlorobenzyl)piperidine | 1.0 mmol, 450.3 mg | ClC1=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)Cl)C=CC(=C1)CC(=O)OCC | C24H29Cl2NO3
reactant | LiAlH4 | 1.0 mmol, 38 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-(4-Chlorobenzyl)-1-[2-(2-chloro-4-(2-hydroxyethyl)phenoxy)ethyl]piperidine | ClC1=CC=C(CC2CCN(CC2)CCOC2=C(C=C(C=C2)CCO)Cl)C=C1 | C22H27Cl2NO2
